US08314087B2
2-Fluoro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzoic acid
To a 5 ml CEM microwave tube was added 6-chloro-2-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one (0.1 g, 0.3 mmol), 4-bromo-2-fluorobenzoic acid (0.08 g, 0.5 mmol), sodium carbonate (0.10 g, 0.9 mmol), dichlorobis(triphenylphosphine)-palladium(II) (30 mg, 0.05 mmol), and DMF (4 mL)-water (0.4 mL). The vial was sealed and placed in CEM microwave for 20 min at 130° C., with 100 Watts of power via Powermax. The reaction mixture was extracted with EtOAc (3×10 mL). The combined organic layers were dried over MgSO4 and concentrated (toluene was added in order to removed most of DMF). The crude product was purified using SiO2 chromatography (Teledyne Isco RediSep®, P/N 68-2203-026, 12 g SiO2, isocratic 5% MeOH in DCM with 1% AcOH, Flow=30 mL/min). The peak at 30 min was collected to afford the desired product as white solid (85 mg). MS (ESI pos. ion) m/z (M+1): 436.2. Calc'd exact mass for C23H18FN3O5: 357.41. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.86 (s, 3 H) 4.70 (s, 4 H) 6.96-7.04 (m, 2 H) 7.13 (d, J=9.79 Hz, 1 H) 7.25-7.30 (m, 1 H) 7.69-7.73 (m, 1 H) 7.75 (s, 1 H) 7.86 (s, 1 H) 7.87-7.95 (m, 2 H) 8.12 (d, J=9.79 Hz, 1 H) 8.64 (d, J=5.26 Hz, 1 H).

reactant | 6-chloro-2-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridazin-3(2H)-one | 0.3 mmol, 0.1 g | ClC=1C=CC(N(N1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C16H14ClN3O3
reactant | 4-bromo-2-fluorobenzoic acid | 0.5 mmol, 0.08 g | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | sodium carbonate | 0.9 mmol, 0.10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.05 mmol, 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.4 mL | O | H2O
product | 2-Fluoro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzoic acid | 85 mg | FC1=C(C(=O)O)C=CC(=C1)C1=NN(C(C=C1)=O)CCOC1=CC=NC2=CC(=CC=C12)OC | C23H18FN3O5
